US04036849
Preparation of 1-[p-(methylsulfinyl)phenyl]-1H-tetrazole (C)
1-[p-(Methylthio)phenyl]-1H-tetrazole (2 g.) and 0.9 ml. of 30% hydrogen peroxide were refluxed with stirring in benzene for 3 hours. The benzene was decanted and the precipitate washed with benzene and recrystallized from acetone, m.p. 175°-176° C.

reactant | 1-[p-(Methylthio)phenyl]-1H-tetrazole | 2 g | CSC1=CC=C(C=C1)N1N=NN=C1 | C8H8N4S
reactant | hydrogen peroxide | OO | H2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[p-(methylsulfinyl)phenyl]-1H-tetrazole | CS(=O)C1=CC=C(C=C1)N1N=NN=C1 | C8H8N4OS
